US04845219
2-Methoxy-3-octadecyloxypropyl 6-hydroxyhexyl sulfide
To 14 ml of a methanol solution of sodium methoxide (1M solution) are added 2.04 g of 6-mercaptohexanol and 0.24 g of sodium borohydride, to which a THF (20 ml) solution containing 2.18 g of 2-methoxy-3-octadecyloxypropyl methanesulfonate is added dropwise under nitrogen streams with stirring. The mixture is stirred at room temperature for 20 hours and then at 40° C. for 1 hour. After the addition of water, the mixture is extracted with ethyl acetate. The extracted layer is washed with water, dried and concentrated under reduced pressures to obtain an oily product. Purification of the oily product by silica gel column chromatography gives 2.31 g of the captioned compound.

reactant | sodium methoxide | 1M | C[O-].[Na+]
reactant | 6-mercaptohexanol | 2.04 g | SCCCCCCO | C6H14OS
reactant | sodium borohydride | 0.24 g | [BH4-].[Na+]
reactant | 2-methoxy-3-octadecyloxypropyl methanesulfonate | 2.18 g | CS(=O)(=O)OCC(COCCCCCCCCCCCCCCCCCC)OC | C23H48O5S
solvent | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methanol | 14 ml | CO | CH4O
product | 2-Methoxy-3-octadecyloxypropyl 6-hydroxyhexyl sulfide | 2.31 g | OCCCCCCSCC(COCCCCCCCCCCCCCCCCCC)OC | C28H58O3S
